US07989438B2
Step 4: 3-[14-cyclohexyl-11-(methoxycarbonyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl]propanoic acid
TFA (>150 eq) and a few drops of water were added to a stirred solution of methyl 7-(3-tert-butoxy-3-oxopropyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (0.03 M) in DCM at RT. The reaction was heated at 60° C. (oil bath temp) for 1 h. Further TFA was introduced (circa 60 eq) and heating continued for 2 h. Volatiles were removed in vacuo. The residue was taken up in EtOAc and washed with 1N HCl (aq), brine before being dried (Na2SO4) filtered and concentrated in vacuo. Residual tert-BuOH was removed by sonication in Et2O/PE to afford the product (45%). (ES+) m/z 462 (M+H)+; 484 (M+Na)+.

reactant | TFA | >150 eq | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl 7-(3-tert-butoxy-3-oxopropyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.03 M | C(C)(C)(C)OC(CCC1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2)=O | C32H39NO5
catalyst | water | a few drops | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3-[14-cyclohexyl-11-(methoxycarbonyl)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocin-7-yl]propanoic acid | 45% | C1(CCCCC1)C=1C=2C=CC(=CC2N2CC(COC3=C(C21)C=CC=C3)CCC(=O)O)C(=O)OC | C28H31NO5
